US06747159B2
Synthesis of p-carboxyphenylmalonaldehyde dianil chloride (Compound 15)
28 mL of POCl3 are added to 39 mL stirred, cooled N,N-dimethylformamide, followed by 16 g of p-cyanophenylacetic. After 1 hour, the reaction mixture is heated at 80-90° C. until carbon dioxide is no longer evolved, about 6 hours. The mixture is cooled to room temperature, mixed within 100 g of ice, and the aqueous mixture is shaken with a small amount of charcoal. The aqueous solution is made basic with potassium carbonate and extracted 3 times with 200 mL portions of dichloromethane. The combined organic layers are washed with distilled water, dried with sodium sulphate and evaporated to a dark oil. This oil is subjected to basic hydrolysis to produce the free dihaldehyde and at the same time convert the nitrile to the corresponding carboxylate. Thus, the oil is suspended in 100 mL of water and 25 mL of 50% aqueous NaOH are added with stirring. The mixture is heated at 70° C. until a homogenous aqueous solution results. The solution is neutralised with concentrated hydrochloric acid and 25 g of aniline hydrochloride dissolved in 100 mL of water are added. The yellow orange precipitate is collected on a fritted glass filter and dried in the oven at 50° C.

reactant | POCl3 | 28 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | carbon dioxide | C(=O)=O | CO2
reactant | charcoal | C | CH4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 25 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | aniline hydrochloride | 25 g | Cl.NC1=CC=CC=C1
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 100 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | p-carboxyphenylmalonaldehyde | C(=O)(O)C1=CC=C(C=C1)C(C=O)C=O | C10H8O4
